US07196085B2
A stirred mixture of 4-(3-amino-4-fluorobenzyl)-2H-phthalazin-1-one (0.1 g, 0.37 mmol; prepared in a manner similar to that described in Example 23) and 1-(carboxymethyl)cyclopentane-1-carboxylic acid (0.064 g, 0.37 mmol) was heated at 200° C. in a sealed tube until the starting materials had been consumed (the reaction was followed by tlc using a 1:1 mixture of ethyl acetate and hexane as eluant). The warm mixture was poured into an ice/water mixture (10 ml) and the resulting solid was collected by filtration. The crude product was recrystallised from ethyl acetate/hexane (the hot solution required filtration to remove traces of undissolved solids) to give 2-[2-fluoro-5-(4-oxo-3,4-dihydrophthalazin-1-ylmethyl)phenyl]-2-azaspiro[4.4]nonane-1,3-dione (0.03 g) as an off-white solid, m.pt. 215–220° C.; 250 MHz 1H-nmr (d6-DMSO) δ (ppm): 1.7–2.2 (m, 8H) (4× cyclopentyl CH2), 2.9 (s, 2H) (—COCH2—), 4.35 (s, 2H) (ArCH2—), 7.3–7.45 (m, 2H) (2×ArH), 7.5–7.6 (m, 1H) (ArH), 7.8–8.1 (m, 3H) (3×ArH), 8.3 (d, 1H) (ArH), 12.7 (s, 1H) (CONH); m/z (M+H)+. 406, 91.4% purity.

reactant | 4-(3-amino-4-fluorobenzyl)-2H-phthalazin-1-one | NC=1C=C(CC2=NNC(C3=CC=CC=C23)=O)C=CC1F | C15H12FN3O
reactant | 1-(carboxymethyl)cyclopentane-1-carboxylic acid | 0.37 mmol, 0.064 g | C(=O)(O)CC1(CCCC1)C(=O)O | C8H12O4
product | 2-[2-fluoro-5-(4-oxo-3,4-dihydrophthalazin-1-ylmethyl)phenyl]-2-azaspiro[4.4]nonane-1,3-dione | 0.03 g | FC1=C(C=C(C=C1)CC1=NNC(C2=CC=CC=C12)=O)N1C(C2(CC1=O)CCCC2)=O | C23H20FN3O3
